US08217028B2
To a solution of ethyl N-{2-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]ethyl}-β-alaninate (D90) (20 mg) in THF (5 mL) was added aqueous NaOH (2 M, 1 mL). The reaction was stirred at 50° C. for 3 h. The mixture was cooled to room temperature and acidified with aqueous HCl (2 M) to pH 4-5, and then partitioned between ethyl acetate (25 mL) and water (20 mL). The organic phase was evaporated to give the crude product, which was purified by Mass Directed Auto Prep to afford N-{2-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]ethyl}-β-alanine (E65) (15 mg, TFA salt). δH (DMSO-d6, 400 MHz): 1.36 (6H, d), 2.61 (2H, t), 3.06 (2H, t), 3.20 (4H, m), 3.65 (3H, s), 4.88 (1H, m), 7.22 (1H, t), 7.31 (1H, s), 7.45 (2H, m), 7.83 (1H, dd), 8.12 (1H, dd), 8.19 (1H, d). MS (ES): C25H27ClN4O4 requires 482; found 483.2 (M+H+).

reactant | ethyl N-{2-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]ethyl}-β-alaninate | 20 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CN(C12)C)CCNCCC(=O)OCC | C27H31ClN4O4
reactant | NaOH | 2 M, 1 mL | [OH-].[Na+]
reactant | HCl | 2 M | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-{2-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]ethyl}-β-alanine | 15 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CN(C12)C)CCNCCC(=O)O | C25H27ClN4O4
